US07173022B2
Ethyl 3-hydroxy-8,8-dimethyl-4-oxo-4,6,7,8-tetrahydropyrrolo[1,2-a]pyrimidine-2-carboxylate.
Intermediate 4, ethyl 3-(benzyloxy)-8,8-dimethyl-4-oxo-4,6,7,8-tetrahydropyrrolo[1,2-a]pyrimidine-2-carboxylate, (650 mg, 1.9 mmol) was treated with 6 mL trifluoroacetic acid (16 hrs) then concentrated in vacuo. The remaining residue was dissolved in CH2Cl2 and washed with H2O. Concentration of the CH2Cl2 layer gave 430 mg of a solid (Yield=90%) which could be further purified by trituration with diethyl ether. 1H NMR (300 MHz, CDCl3) δ ppm: 10.81 (1 H, s) 4.45 (2 H, q, J=7.0 Hz) 3.97–4.12(2 H, m) 1.95–2.15 (2 H, m) 1.41 (3 H, t, J=7.1 Hz) 1.33 (6 H, s); LC/MS m/z 253 (M+H).

reactant | ethyl 3-(benzyloxy)-8,8-dimethyl-4-oxo-4,6,7,8-tetrahydropyrrolo[1,2-a]pyrimidine-2-carboxylate | 1.9 mmol, 650 mg | C(C1=CC=CC=C1)OC1=C(N=C2N(C1=O)CCC2(C)C)C(=O)OCC | C19H22N2O4
reactant | trifluoroacetic acid | 6 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | Ethyl 3-hydroxy-8,8-dimethyl-4-oxo-4,6,7,8-tetrahydropyrrolo[1,2-a]pyrimidine-2-carboxylate | 430 mg, Yield=90% | OC1=C(N=C2N(C1=O)CCC2(C)C)C(=O)OCC | C12H16N2O4
